US04318912
Azidoacetyl chloride (21 μl) is added by syringe in an ice-cold, stirring solution of triethylamine (42 μl) and benzyl 1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate (52 mg) in anhydrous methylene chloride (2 ml). After stirring 30 mins in the cold, the reaction mixture is diluted with methylene chloride (5 ml), washed with H2O (2 ml), pH 3 phosphate buffer (2 ml), and 5% NaHCO3 (2 ml), dried with MgSO4, filtered, and evaporated in vacuo. Chromatography of the residue on a silica gel GF plate gives benzyl 3-(α-azidoacetoxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate.

reactant | Azidoacetyl chloride | 21 μl | N(=[N+]=[N-])CC(=O)Cl | C2H2ClN3O
reactant | triethylamine | 42 μl | C(C)N(CC)CC | C6H15N
reactant | benzyl 1-azabicyclo[3.2.0]heptane-3,7-dione-2-carboxylate | 52 mg | N12C(C(CC2CC1=O)=O)C(=O)OCC1=CC=CC=C1 | C14H13NO4
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | benzyl 3-(α-azidoacetoxy)-1-azabicyclo[3.2.0]hept-2-en-7-one-2-carboxylate | N(=[N+]=[N-])CC(=O)OC1=C(N2C(CC2C1)=O)C(=O)OCC1=CC=CC=C1 | C16H14N4O5
